US07282511B2
5-(4-Chlorophenyl)-8-methyl-6,7,8,9-tetrahydro-1-H-pyrrolo[3.2-h]isoquinoline-2,3-dione
A mixture of 8-Amino-5-(4-chlorophenyl)-N-methyl-1,2,3,4-tetrahydroisoquinoline hydrochloric acid salt (3.1 g, 10 mmol), chloral (1.5 ml, 15 mmol), sodium sulphate (14 g, 98.6 mmol), hydroxylamine hydrochloride (2.4 g, 15 mmol) and water (70 ml) was heated at reflux for 0.5 h. The mixture was allowed to reach room-temperature. The crystals were filtered and washed with water, followed by recrystallisation from ethanol (96%). The crystalline intermediate (2.0 g) was combined with methanesulphonic acid (20 ml) and heated for 15 min at 100° C. The crude mixture was poured out on ice and sodium hydroxide (25 ml, 10 M) was added. The crystalline product was recrystallized from ethanol (96%). Yield 0.54 g (29%). Mp decomp. 225° C.

reactant | 8-Amino-5-(4-chlorophenyl)-N-methyl-1,2,3,4-tetrahydroisoquinoline hydrochloric acid salt | 10 mmol, 3.1 g | Cl.NC=1C=CC(=C2CCN(CC12)C)C1=CC=C(C=C1)Cl
reactant | chloral | 15 mmol, 1.5 ml | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | sodium sulphate | 98.6 mmol, 14 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydroxylamine hydrochloride | 15 mmol, 2.4 g | Cl.NO
solvent | water | 70 ml | O | H2O
product | 5-(4-Chlorophenyl)-8-methyl-6,7,8,9-tetrahydro-1-H-pyrrolo[3.2-h]isoquinoline-2,3-dione | ClC1=CC=C(C=C1)C=1C=2CCN(CC2C2=C(C1)C(C(N2)=O)=O)C | C18H15ClN2O2
